US06635241B1
1.5. Bis-[2-(2-hydroxy-5-aminophenoxy)-ethy]-ether
In a 600 ml glass beaker, 13.9 g (0.08 mole) of sulfanilic acid were dissolved in 41 ml of 10% sodium hydroxide solution and a solution of 5.7 g (0.08 mole) of sodium nitrite in 30 ml of water was added to the resulting solution. After the mixture had been cooled to 0-5° C., 72 ml of 10% hydrochloric acid were added dropwise over a period of 45 minutes. This cold diazonium solution was then added dropwise over a period of 30 minutes at 0-5° C. to a solution of 11.8 g (0.04 mole) of bis-([-2-(2-hydroxyphenoxy)-ethyl]-ether (prepared in accordance with J. Am. Chem. Soc. (1977), 2568) in 66 ml of 10% sodium hydroxide. After stirring for another 1.5 hours at 15° C., 38.3 g (0.22 mole) of sodium dithionite were added. The mixture was then heated for 20 minutes to 75° C., the product precipitating. After cooling, the product was filtered off under suction, washed with water and dried in vacuo at 70° C. The product had a melting point of 215° C. (with decomposition).

reactant | sulfanilic acid | 0.08 mole, 13.9 g | S(=O)(C1=CC=C(C=C1)N)(=O)O | C6H7NO3S
reactant | sodium nitrite | 0.08 mole, 5.7 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 72 ml | Cl | ClH
reactant | [-2-(2-hydroxyphenoxy)-ethyl]-ether | OC1=C(OCCOCCOC2=C(C=CC=C2)O)C=CC=C1 | C16H18O5
reactant | sodium dithionite | 0.22 mole, 38.3 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 41 ml | [OH-].[Na+]
reactant | sodium hydroxide | 66 ml | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | Bis-[2-(2-hydroxy-5-aminophenoxy)-ethy]-ether | OC1=C(OCCOCCOC2=C(C=CC(=C2)N)O)C=C(C=C1)N | C16H20N2O5
